US04269980
8-[3-(trifluoromethyl)-phenyl]-1,2,4-triazolo[1,5-c]pyrimidine
The amide from the preceeding example, N-[2-(3-trifluoromethyl-phenyl)-2-(1,2,4-triazol-3-yl)ethenyl]formamide, is dissolved in methanol and the mixture is heated to the reflux temperature for about 60 hours. The solvent is evaporated and the residue is crystallized with the aid of petroleum ether and collected; the product is thereby obtained and is identical with that obtained in Example 16.

reactant | N-[2-(3-trifluoromethyl-phenyl)-2-(1,2,4-triazol-3-yl)ethenyl]formamide | FC(C=1C=C(C=CC1)C(=CNC=O)C1=NNC=N1)(F)F | C12H9F3N4O
solvent | methanol | CO | CH4O
product | 8-[3-(trifluoromethyl)-phenyl]-1,2,4-triazolo[1,5-c]pyrimidine | FC(C=1C=C(C=CC1)C=1C=2N(C=NC1)N=CN2)(F)F | C12H7F3N4
